US04596823
The starting material is prepared by the treatment of 1,3-cyclohexadiene with dichloroacetyl chloride, followed by dechlorination with zinc and acetic acid of the resulting adduct to give bicyclo[4,2,0]-oct-2-en-7-one. This compound is subjected to Baeyer-Villiger oxidation to give 7-oxabicyclo[4,3,0]non-2-en-8-one which is treated with thallium (III) nitrate under carefully controlled conditions to give 6-formyl-2-oxabicyclo[3,3,0]octane-3-one having properties identical with those reported by Corey and Ravindranathan, Tetrahedron Letters, 1971, 4753.

reactant | 1,3-cyclohexadiene | C1=CC=CCC1 | C6H8
reactant | dichloroacetyl chloride | ClC(C(=O)Cl)Cl | C2HCl3O
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | bicyclo[4,2,0]-oct-2-en-7-one | C12C=CCCC2C(C1)=O | C8H10O
